US04654343
Methyl-[3-(1,2,4-triazolo[4,3-b]pyridazin 6-yl)phenyl]carbamic acid, methyl ester
A mixture of 2.25 g of [3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]carbamic acid, methyl ester, 0.42 g of sodium hydride (50% in oil) and 200 ml of dimethylformamide was stirred under argon, for 1 hour and then 0.55 ml of methyl iodide was added. This mixture was stirred overnight, then treated as described in Example 1, giving 1.3 g of the desired product as tan crystals, mp 195°-199° C.

reactant | [3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]carbamic acid, methyl ester | 2.25 g | N=1N=CN2N=C(C=CC21)C=2C=C(C=CC2)NC(OC)=O | C13H11N5O2
reactant | sodium hydride | 0.42 g | [H-].[Na+]
reactant | methyl iodide | 0.55 ml | CI | CH3I
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | Methyl-[3-(1,2,4-triazolo[4,3-b]pyridazin 6-yl)phenyl]carbamic acid, methyl ester | 1.3 g | CN(C(OC)=O)C1=CC(=CC=C1)C=1C=CC=2N(N1)C=NN2 | C14H13N5O2
